US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1-methylpyrrolidin-3-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
The title compound was synthesized according to Example 13c from methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (0.352 g, 1.09 mmol) and 1-{3-[(1-methylpyrrolidin-3-yl)methoxy]phenyl}methanamine (0.200 g, 0.91 mmol) in MeOH (2 mL) to give the title compound. Yield: 0.225 g (44%). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 7.59-7.62 (m, 2H), 7.45 (s, 1H), 7.39-7.42 (m, 2H), 7.22-7.26 (m, 1H), 6.81-6.91 (m, 3H), 5.17 (s, 2H), 3.83 (d, 2H, J=6.9 Hz), 2.60-2.66 (m, 2H), 2.38-2.57 (m, 3H), 2.32 (s, 3H), 1.97-2.08 (m, 1H), 1.51-1.60 (m, 1H). MS (ESI+) 465.99 (M+1H+)

reactant | methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 1.09 mmol, 0.352 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | 1-{3-[(1-methylpyrrolidin-3-yl)methoxy]phenyl}methanamine | 0.91 mmol, 0.200 g | CN1CC(CC1)COC=1C=C(C=CC1)CN | C13H20N2O
solvent | MeOH | 2 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1-methylpyrrolidin-3-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OCC1CN(CC1)C | C25H24ClN3O2S
